US07309576B2
Dopamine D1 Receptor Containing a NLS (D1-NLS-GFP), was Treated with an Antagonist in a Dose Response Study
HEK cells were transfected with DNA encoding D1-NLS-GFP (2 micrograms), and D1-WT (6 micrograms) for 48 hours. These cells were treated 6 hrs after transfection with SCH-23390 (10 micromolar), or (+)butaclamol (10 micromolar). The medium containing antagonist was changed at 6, 22, 30 and 42 hours after transfection. Control cells received no antagonist treatment.

reactant | SCH-23390 | 10 micromolar | CN1CCC=2C=C(C(=CC2[C@H](C1)C=3C=CC=CC3)O)Cl | C17H18ClNO
reactant | (+)butaclamol | 10 micromolar | CC(C)(C)[C@]1(CCN2C[C@@H]3C=4C=CC=CC4CCC5=C3C(=CC=C5)[C@H]2C1)O | C25H31NO
product | Dopamine | NCCC1=CC(O)=C(O)C=C1 | C8H11NO2
